US04837238
4,5,6,7,8,9-Hexahydro-9-oxo-1H-pyrazolo[4,3-b]quinoline (D8)
Ethyl 2-(pyrazol-4-ylamino)cyclohexene-1-carboxylate (8.5 g, 0.036 mole) was added rapidly to refluxing Dowtherm A (250 ml) under nitrogen and the mixture heated under reflux for a further 15 minutes, before allowing to cool to room temperature. The mixture was diluted with 60°-80° petroleum ether (200 ml) and the solid then filtered off, washed well with petroleum ether and then ethanol, before drying under vacuum to give the title compound as a white solid (6.26 g, 92%), m.p. >325° C. Found: C, 63.20; H, 5.85; N, 22.20% C10H11N3O requires C, 63.50; H, 5.85; N, 22.20%

reactant | Ethyl 2-(pyrazol-4-ylamino)cyclohexene-1-carboxylate | 0.036 mole, 8.5 g | N1N=CC(=C1)NC1=C(CCCC1)C(=O)OCC | C12H17N3O2
solvent | Dowtherm A | 250 ml | C1=CC=C(C=C1)C2=CC=CC=C2.C1=CC=C(C=C1)OC2=CC=CC=C2
product | 4,5,6,7,8,9-Hexahydro-9-oxo-1H-pyrazolo[4,3-b]quinoline | 6.26 g, 92% | O=C1C2=C(NC=3CCCCC13)C=NN2 | C10H11N3O
